US07208494B2
d) 5-Hydroxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
To a solution of 2.20 g (5.36 mmol) 5-benzoyloxy pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester in 20 mL methanol was added 0.81 g (5.90 mmol) potassium carbonate. After 1 h the reaction was poured into ethyl acetate and extracted with 10% aqueous citric acid solution. The phases were separated and the organic layer was washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography over silica gel (0.030–0.063 mm) with ethyl acetate:n-hexane (1:1) to give the product as a colourless oil (100%).

reactant | 5-benzoyloxy pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 5.36 mmol, 2.20 g | CCOC(=O)C1=CC=2C(=NC=C(C2)OC(C2=CC=CC=C2)=O)N1C(=O)OC(C)(C)C | C22H22N2O6
reactant | potassium carbonate | 5.90 mmol, 0.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | 5-Hydroxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 100% | CCOC(=O)C1=CC=2C(=NC=C(C2)O)N1C(=O)OC(C)(C)C | C15H18N2O5
